US04262128
Diethyl 2-aminononanedioate (5.0 g) was heated with benzaldehyde (2.15 g) in benzene (10 ml) under reflux for 12/3 hours, removing the water formed by means of a Dean and Stark apparatus. The benzene was evaporated in vacuo and the residual oil was taken up in dry tetrahydrofuran (20 ml), stirred under dry nitrogen, treated with sodium hydride (0.61 g of a 80% dispersion in mineral oil), and heated until evolution of hydrogen began. Thereafter, reaction was allowed to proceed at room temperature. When effervescence had ceased, the pale yellow-brown solution was cooled in ice-water and, with continued stirring, treated with methyl iodide (6.83 g); the cooling bath was removed after 15 minutes and the mixture was set aside at room temperature overnight. The resulting suspension of solid was diluted with ether (100 ml) and shaken with ice-cold water (100 ml), and the ethereal phase was washed with H2O, dried over sodium sulphate, and evaporated, to leave crude diethyl 2-(benzylideneamino)2-methylnonanedioate (6.4 g) as a yellow oil.

reactant | Diethyl 2-aminononanedioate | 5.0 g | NC(C(=O)OCC)CCCCCCC(=O)OCC | C13H25NO4
reactant | benzaldehyde | 2.15 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | methyl iodide | 6.83 g | CI | CH3I
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | diethyl 2-(benzylideneamino)2-methylnonanedioate | 6.4 g | C(C1=CC=CC=C1)=NC(C(=O)OCC)(CCCCCCC(=O)OCC)C | C21H31NO4
